US08431695B2
Step 1: Preparation of 6-Chloro-5-fluoro-1H-indazole
A mixture of 4-chloro-2,5-difluorobenzaldehyde (20.6 g, 105.0 mmol) and hydrazine hydrate (77.2 mL, 1575.2 mmol, 15 eq) in n-butanol (35 mL) was stirred at 140° C. for 3 days. The mixture was cooled to room temperature and poured into ice water (750 mL). The mixture was stirred vigorously for 2 h, and the orange solid was filtered. The filtrate was extracted with EtOAc (3×250 mL), and the combined organic phases were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was combined with the orange solid and then purified by MPLC (Biotage®, gradient elution 25% EtOAc/hexane) to give 2.81 g (16%) of a white solid. 1H-NMR (300 MHz, DMSO-d6) 13.3 (broad s, 1H), 8.09 (s, 1H), 7.80 to 7.76 (m, 2H); ES-MS m/z 171.2/173.2 [M+H]+, RT (min) 3.02.

reactant | 4-chloro-2,5-difluorobenzaldehyde | 105.0 mmol, 20.6 g | ClC1=CC(=C(C=O)C=C1F)F | C7H3ClF2O
reactant | hydrazine hydrate | 1575.2 mmol, 77.2 mL, 15 eq | O.NN
solvent | n-butanol | 35 mL | C(CCC)O | C4H10O
product | 6-Chloro-5-fluoro-1H-indazole | 2.81 g, 16% | ClC1=C(C=C2C=NNC2=C1)F | C7H4ClFN2
